US08865713B2
Step D: 1-(5-benzylsulfanyl-6-chloro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid.
To a mixture of 1-(5-benzylsulfanyl-6-chloro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (57.0 mg, 0.127 mmol), THF (2 mL), and water (0.67 mL) was added LiOH.H2O (27.0 mg, 0.654 mmol). The mixture was stirred for 18 h at 23° C. The reaction mixture was concentrated under reduced pressure, water (3 mL) was added and the mixture acidified to pH=3 with 1M HCl. The resulting white precipitate was filtered and dried to yield the titled compound (39.0 mg, 80%). MS (ESI/CI): mass calcd. for C18H13ClN4O2S, 384.0; m/z found, 385.0 [M+H]+. 1H NMR (600 MHz, DMSO-d6): 8.86 (s, 1H), 8.29 (s, 1H), 7.67 (s, 1H), 7.53 (s, 1H), 7.39 (d, J=7.4 Hz, 2H), 7.31 (t, J=7.4 Hz, 2H), 7.25 (t, J=7.1 Hz, 1H), 4.29 (s, 2H).

reactant | 1-(5-benzylsulfanyl-6-chloro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.127 mmol, 57.0 mg | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C(=C2)SCC2=CC=CC=C2)Cl | C20H17ClN4O2S
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | LiOH.H2O | 0.654 mmol, 27.0 mg | O[Li].O
solvent | water | 0.67 mL | O | H2O
product | 1-(5-benzylsulfanyl-6-chloro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid | 39.0 mg, 80% | C(C1=CC=CC=C1)SC1=CC2=C(NC(=N2)N2N=CC(=C2)C(=O)O)C=C1Cl | C18H13ClN4O2S
